US04258185
To a mixture of 6 g of 6-(5-methyl-3-oxo-2,3,4,5-tetrahydropyridazin-6-yl)-1,4,4-trimethyl-1,2,3,4-tetrahydroquinolin-2-one and 60 ml of dimethylformamide was added 1.8 g of sodium hdyride. After 30 minutes, 4.6 g of butyl bromide was added to the mixture and the whole mixture was stirred for one hour. After completion of the reaction, the mixture was poured into ice-cold water and the precipitated crystals were filtered off and recrystallized from a mixture of ethanol and water to give 5.2 g of 6-(2-butyl-5-methyl-3-oxo-2,3,4,5-tetrahydropyridazin-6-yl)-1,4,4-trimethyl-1,2,3,4-tetrahydroquinolin-2-one, melting at 137°-139° C.

reactant | 6-(5-methyl-3-oxo-2,3,4,5-tetrahydropyridazin-6-yl)-1,4,4-trimethyl-1,2,3,4-tetrahydroquinolin-2-one | 6 g | CC1CC(NN=C1C=1C=C2C(CC(N(C2=CC1)C)=O)(C)C)=O | C17H21N3O2
reactant | sodium | 1.8 g | [Na] | Na
reactant | butyl bromide | 4.6 g | C(CCC)Br | C4H9Br
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 6-(2-butyl-5-methyl-3-oxo-2,3,4,5-tetrahydropyridazin-6-yl)-1,4,4-trimethyl-1,2,3,4-tetrahydroquinolin-2-one | 5.2 g | C(CCC)N1N=C(C(CC1=O)C)C=1C=C2C(CC(N(C2=CC1)C)=O)(C)C | C21H29N3O2
